US07691850B2
e) (3Z,4R)-4-(aminomethyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinone oxime
Phenylmethyl {[(3R,4Z)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-(hydroxyimino)-3-pyrrolidinyl]methyl}carbamate (0.180 g, 0.39 mmol) was dissolved in 1:1 (MeOH/THF) (10 mL). Catalytic 10% Palladium on carbon was added and the solution subjected to H at 55 PSI on a Parr shaker for 6 hours. The solution was filtered through a pad of celite and concentrated under reduced pressure. (0.174 g, quant.) LCMS: m/z 334.4 (MH+).

reactant | Phenylmethyl {[(3R,4Z)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-(hydroxyimino)-3-pyrrolidinyl]methyl}carbamate | 0.39 mmol, 0.180 g | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H](/C(/C1)=N/O)CNC(OCC1=CC=CC=C1)=O)OC | C24H26FN5O4
catalyst | Palladium on carbon | [Pd] | Pd
solvent | MeOH THF | CO.C1CCOC1
product | (3Z,4R)-4-(aminomethyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinone oxime | NC[C@H]1/C(/CN(C1)CCC1=C(C=NC2=CC=C(N=C12)OC)F)=N/O | C16H20FN5O2
